US08802850B2
2-((3aR,4S,6R,6aS)-6-(5-Amino-6-chloro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol
A suspension of 2-((3aR,4S,6R,6aS)-6-(6-chloro-5-nitro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol (800 mg, 1.78 mmol, 1.00 equiv.), iron powder (800 mg, 14.29 mmol, 8.00 equiv.), acetic acid (860 mg, 14.33 mmol, 8.00 equiv.) and water/ethanol (10 mL) was stirred at about 60° C. for about 20 minutes in an oil bath. After the solids were removed by filtration, the resulting filtrate was extracted with dichloromethane (3×10 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a yellow oil (780 mg; yield=93%). MS: m/z=419 (MH)+.

reactant | 2-((3aR,4S,6R,6aS)-6-(6-chloro-5-nitro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol | 1.78 mmol, 800 mg, 1.00 equiv. | ClC1=C(C(=NC(=N1)SCCC)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)OCCO)[N+](=O)[O-] | C17H25ClN4O6S
reactant | acetic acid | 14.33 mmol, 860 mg, 8.00 equiv. | C(C)(=O)O | C2H4O2
catalyst | iron | 14.29 mmol, 800 mg, 8.00 equiv. | [Fe] | Fe
solvent | water ethanol | 10 mL | O.C(C)O
product | 2-((3aR,4S,6R,6aS)-6-(5-Amino-6-chloro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol | 780 mg, yield=93% | NC=1C(=NC(=NC1Cl)SCCC)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)OCCO | C17H27ClN4O4S
